US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide [(XXVA), R1=R2=R3=H, R=3,5-difluorophenyl, PG=triphenylmethyl, PG1=trifluoroacethyl]
Crude N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide was suspended in dichloromethane (25 mL) and treated with trityl chloride (0.72 g, 2.58 mmol) under stirring. The suspension was cooled to 0° C. and neat 1,8-diazabicyclo[5.4.0]undec-7-ene (0.42 mL, 2.78 mmol) was added, producing immediate solubilization. After stirring at 0° C. for 3 hours the reaction mixture was poured into 50 mL of ice containing 1N HCl (5 mL) and extracted with dichloromethane. The organic layer was washed with NaHCO3, brine, dried and concentrated to a crude material that was purified by flash chromatography (eluant: DCM). The desired product was obtained as a white solid (450 mg, yield 40% over two steps)

reactant | N-[5-(3,5-difluoro-benzyl)-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C(F)(F)F)=O)C=C(C1)F | C16H10F5N3O
reactant | trityl chloride | 2.58 mmol, 0.72 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.78 mmol, 0.42 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-Difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-2,2,2-trifluoro-acetamide | yield 40% | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C(F)(F)F)=O)C=C(C1)F | C35H24F5N3O
